US08084644B2
Ethanethiol (0.11 ml) was dissolved to DMF (3 ml), and sodium hydride (60% in oil: 60 mg) was added under ice-cooling, and stirred for 30 minutes at the same temperature. Phenyl 3-phenoxy-N-phenylacrylimidate (0.30 g) was dissolved to DMF (2 ml), and the obtained solution was added to the above mentioned thiolate solution under ice-cooling, and stirred for two hours at the same temperature and for two hours at room temperature. Ethyl acetate (100 ml) was added to the reaction solution, and it was successively washed with 1N aqueous sodium hydroxide solution, water and aqueous saturated sodium chloride solution, dried over magnesium sulfate (anhydrous), concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (hexane:ethyl acetate=10:1) to obtain phenyl 3-ethylthio-N-phenylacrylimidate (0.14 g) as yellow oil.

reactant | Ethanethiol | 0.11 ml | C(C)S | C2H6S
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
reactant | sodium hydride | 60 mg | [H-].[Na+]
reactant | Phenyl 3-phenoxy-N-phenylacrylimidate | 0.30 g | O(C1=CC=CC=C1)C=CC(OC1=CC=CC=C1)=NC1=CC=CC=C1 | C21H17NO2
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | phenyl 3-ethylthio-N-phenylacrylimidate | 0.14 g | C(C)SC=CC(OC1=CC=CC=C1)=NC1=CC=CC=C1 | C17H17NOS
